data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3871,4430,[CH3:10][C:11](=[O:12])[c-:13]1[c:14](=[O:15])[o:16][c:17]([CH3:18])[n+:19]1[CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]2([C:11]([CH3:10])=[O:12])[C:14](=[O:15])[O:16][C:17]1([CH3:18])[N:19]2[CH3:20],water,298.15,34.990915983106355,12.703654014030285
2952,3295,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6]#[N+:7][N-:8][C:9](=[O:10])[NH:11][CH3:12]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[N:8]([C:9](=[O:10])[NH:11][CH3:12])[N:7]=[C:6]1[CH3:5],water,298.15,22.41733534937241,-37.81292008834486
3848,4404,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH-:15][O+:16]=[CH:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:17]([C:18]([CH3:19])=[O:20])[O:16][CH:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,4.840929915665644,-50.27402120378668
2253,2498,[CH3:19][O:20][C:21](=[O:22])[C:23]#[N+:24][C-:25]([C:26]([CH3:27])=[O:28])[C:29]([CH3:30])=[O:31].[F:1][C:2]1([F:3])[C:4]#[C:5][C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[F:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([O:20][CH3:19])=[O:22])=[N:24][C:25]2([C:26]([CH3:27])=[O:28])[C:29]([CH3:30])=[O:31],water,298.15,18.237063382800105,-51.5033041653292
5247,5952,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20](=[O:21])[O:22][CH3:23])[N+:24]([CH3:25])=[C:26]([CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:20](=[O:21])[O:22][CH3:23])[N:24]([CH3:25])[C:26]2([CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,44.84775015359393,10.403795059372955
3109,3500,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[CH-:9][N+:10]([CH3:11])=[C:12]([CH3:13])[C:14]#[N:15]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[CH:9]([C:7]([O:6][CH3:5])=[O:8])[N:10]([CH3:11])[C:12]1([CH3:13])[C:14]#[N:15],water,298.15,22.21296321722571,-27.972413887624988
2999,3351,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][CH:8]=[N+:9]([CH3:10])[CH-:11][C:12]#[N:13]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:11]([C:12]#[N:13])[N:9]([CH3:10])[CH:8]1[CH3:7],water,298.15,12.75162117176743,-22.89958663492697
1897,2102,[CH3:16][O:17][C:18](=[O:19])[CH:20]=[N+:21]([CH3:22])[C-:23]([C:24]#[N:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:23]([C:24]#[N:25])([C:26](=[O:27])[O:28][CH3:29])[N:21]([CH3:22])[CH:20]3[C:18]([O:17][CH3:16])=[O:19],water,298.15,23.257130125048626,-37.49287663958461
4481,5114,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([C:18]#[N:19])[C:20]#[N:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:22]([CH3:23])=[O:24])[NH:16][C:17]2([C:18]#[N:19])[C:20]#[N:21],water,298.15,27.05795155950201,-2.88851387638322
523,570,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[N:9]#[N+:10][C-:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[N:9]=[N:10][C:11]1([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,16.460850901236206,-31.63207504614669
627,687,[CH3:18][C-:19]([C:20]#[N:21])[N+:22]#[N:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:19]([CH3:18])([C:20]#[N:21])[N:22]=[N:23]2,water,298.15,24.716588019006075,-13.544860183129131
20,23,[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([F:7])[F:8].[CH3:9][C-:10]([CH3:11])[N+:12]#[N:13]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([F:7])([F:8])[N:13]=[N:12][C:10]1([CH3:9])[CH3:11],water,298.15,26.674148058102805,-27.190828653938823
3389,3849,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[O:7]=[c:8]1[o:9][n:10][o+:11][c-:12]1-[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:12]2([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[C:8](=[O:7])[O:9][N:10]1[O:11]2,water,298.15,16.33009911311134,-10.048490707688464
